Switch

R1 1 2 50m
R2 9 0 50m

L1 2 7 100
L2 8 9 100

C1 3 8 100n
C2 4 0 1n

S1 3 4 5 0 switch1 OFF
S2 4 8 6 0 switch1 OFF

V1 1 0 dc 1v
Vid 7 3 dc 0v
Vc1 5 0 PULSE(0 1 0NS 0NS 0NS 0.5NS 1NS)
Vc2 6 0 PULSE(1 0 0NS 0NS 0NS 0.5NS 1NS)

.ic v(3)=0v v(4)=0v v(8)=0v

.control
tran 0.01ns 3us uic
plot v(3)
plot Vid#branch
write test.raw v(3)
.endc

